US07074800B1
A solution of 4-chloro-6-methoxy-7-((1-cyanomethylpiperidin-4-yl)methoxy)quinazoline (200 mg, 0.58 mmol) and 5-hydroxyindole (85 mg, 0.63 mmol) in DMF (3 ml) containing cesium carbonate (282 mg, 0.86 mmol) was stirred at 90° C. for 90 minutes. After cooling, the mixture was poured onto water (25 ml). The precipitate was filtered, dried under vacuum and purified by reverse phase column chromatography on silica (kromasil® C18) eluting with methanol/water (1% acetic acid) (1/1). The fractions containing the expected product were combined and evaporated to give 7-((1-cyanomethyl)piperidin-4-ylmethoxy)-4-(indol-5-yloxy)-6-methoxyquinazoline (44 mg, 17%).

reactant | 4-chloro-6-methoxy-7-((1-cyanomethylpiperidin-4-yl)methoxy)quinazoline | 0.58 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)CC#N | C17H19ClN4O2
reactant | 5-hydroxyindole | 0.63 mmol, 85 mg | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | cesium carbonate | 0.86 mmol, 282 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 7-((1-cyanomethyl)piperidin-4-ylmethoxy)-4-(indol-5-yloxy)-6-methoxyquinazoline | 44 mg, 17% | C(#N)CC(OC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=CNC2=CC1)OC)C1CCNCC1 | C25H25N5O3
